US09078444B2
To a solution of tert-butyl 4-formyl-2-methyl-benzoate (390 g, ˜78% purity, 1.8 mol) in DMF (2.0 L) was added oxone (270 g, 1.8 mol) over a period of 15 min at 10° C. After complete addition, the reaction mixture was warmed to room temperature and stirred for 12 h. After complete conversion of starting material, the reaction mixture was diluted with water at 10° C. The aqueous layer was extracted with ethyl acetate (2×5 L), washed with water (3×1 L) dried over sodium sulphate and concentrated to yield a crude residue (217 g). Pure 4-tert-butoxycarbonyl-3-methyl-benzoic acid (115 g) was obtained by column chromatography with ethyl acetate (6%) in hexane.

reactant | tert-butyl 4-formyl-2-methyl-benzoate | 1.8 mol, 390 g | C(=O)C1=CC(=C(C(=O)OC(C)(C)C)C=C1)C | C13H16O3
reactant | oxone | 1.8 mol, 270 g | OOS(=O)[O-].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 2.0 L | CN(C)C=O | C3H7NO
solvent | water | O | H2O
solvent | hexane | CCCCCC | C6H14
product | 4-tert-butoxycarbonyl-3-methyl-benzoic acid | 115 g | C(C)(C)(C)OC(=O)C1=C(C=C(C(=O)O)C=C1)C | C13H16O4
